* Z:\mnt\design.r\spice\examples\4699.asc
V1 IN 0 48
C1 N002 N004 6µ x8
C2 N003 0 6µ x4
C3 N001 0 150µ x2
R1 N007 0 4.32K
C5 N009 0 10n
R3 N013 0 60.2K
R4 N014 0 100K
C6 N015 0 .47µ
R5 N016 N017 4.99K
C7 OUT0 0 470µ X2
R6 OUT0 0 30m
C8 OUT0 0 100µ X6
C9 0 N006 2.2n
C10 OUT1 0 330µ X2
R7 OUT1 0 20m
C11 OUT1 0 100µ X6
C12 0 N012 2.2n
C13 0 N010 100p
C14 0 N005 100p
R8 N011 N017 4.99K
XU2 OUT0 0 N013 OUT1 N006 N005 N014 OUT0 NC_01 NC_02 N016 N002 N003 N004 NC_03 IN N011 N011 N015 NC_04 NC_05 NC_06 N011 NC_07 NC_08 N001 NC_09 N017 N010 N012 0 OUT1 NC_10 NC_11 N007 N008 N009 NC_12 N001 NC_13 0 NC_14 NC_15 N001 NC_16 N008 MP_17 NC_18 0 MP_19 NC_20 N001 LTM4699 VIN_ON=5.5 VIN_OFF=5 Vout_0=1.6 Vout_1=2.5 Ilim0_range=0 Ilim1_range=0 OC_limit0=1 OC_limit1=1 Mode_ll=1 Fault_response=0 Retry_delay=.1m gm0=3m gm1=3m Rth0=5K Rth1=5K Sync=0 Freq=500K PHs_0=0 PHs_1=180 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
* Please read the following notes carefully, since the model presents different user interface\nthan the real part does.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTM4699. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, \n                425K, 500K, 575K, 650K, 750K, 1000K. FSWPH_CFG pin needs to float \n                (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. \n                Certain combinations are restricted as in datasheet. FSWPH_CFG \n                pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0\n                                                      for 4.096V (CH0) and 5.5V (CH1); value 1\n                                                      for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n                           for low, and 1 for high;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined\n                      by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, \n                      0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                                 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;\n     gm -- transconductance of the error amplifier. It must be between 1m mho and 5.73m mho;\n     Rth -- Compensation resistor. It must be set between 0k ohms and 62k ohms;\n     Sync - value 0 for configuring module as Master, value 1 for Slave
.tran 108.2m startup
.lib LTM4699.sub
.backanno
.end
